US09278968B2
Under a nitrogen gas flow, to a solution of 27.7 g of N-(5-cyano-2,2-dimethyl-1,3-dioxan-5-yl)-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxamide in 280 ml of DMF were added 10.0 g of ammonium chloride and 12.0 g of sodium azide at room temperature, followed by stirring at 120° C. for 2 hours. The reaction mixture was left to be cooled to room temperature, and the insoluble materials were then separated by filtration and washed with DMF. The filtrate was added to water, followed by stirring at room temperature for 2 days. The resulting insoluble materials were separated by filtration and washed with water. The obtained residue was dried under reduced pressure to obtain 29.2 g of 8-[(2,6-difluorobenzyl)oxy]-N-[2,2-dimethyl-5-(2H-tetrazol-5-yl)-1,3-dioxan-5-yl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide.

reactant | N-(5-cyano-2,2-dimethyl-1,3-dioxan-5-yl)-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 27.7 g | C(#N)C1(COC(OC1)(C)C)NC(=O)C1=C(N=C2N1C=CC=C2OCC2=C(C=CC=C2F)F)C | C23H22F2N4O4
reactant | ammonium chloride | 10.0 g | [Cl-].[NH4+]
reactant | sodium azide | 12.0 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 280 ml | CN(C)C=O | C3H7NO
product | 8-[(2,6-difluorobenzyl)oxy]-N-[2,2-dimethyl-5-(2H-tetrazol-5-yl)-1,3-dioxan-5-yl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 29.2 g | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)NC3(COC(OC3)(C)C)C=3N=NNN3)C(=CC=C1)F | C23H23F2N7O4
